US20010000513A1
A mixture of 4-(4′-chloro-biphenyl-4-yl)-4-oxo-butyric acid (9.13 g, 0.0316 mol), hydroxylamine hydrochloride (2.64 g, 0.0380 mol), and sodium carbonate (4.04 g, 0.0381 mol) in absolute ethanol was refluxed under nitrogen for 13.5 hours and allowed to cool. The resulting suspension was filtered, and the filter cake was washed with ethanol followed by diethyl ether. The filter cake was dried under house vacuum to give a white solid. The solid was dissolved in methanol (450 mL), and the cloudy solution was filtered to remove fines. The filtrate was stirred while one equivalent of 1 M HCl was added dropwise followed by dropwise addition of deionized water (200 mL). The mixture was gently rotary evaporated (bath temperature=40° C.) to a volume of 150 mL. The solids that precipitated were chilled at 5° C. for 10 minutes and filtered. The filter cake was washed with water and dried in vacuo to give 6.82 g of 4-(4′-chloro-biphenyl-4-yl)-4-hydroxyimino-butyric acid as an off-white solid; mp 155-157° C.

reactant | 4-(4′-chloro-biphenyl-4-yl)-4-oxo-butyric acid | 0.0316 mol, 9.13 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H13ClO3
reactant | hydroxylamine hydrochloride | 0.0380 mol, 2.64 g | Cl.NO
reactant | sodium carbonate | 0.0381 mol, 4.04 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 1 M, one equivalent | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | 450 mL | CO | CH4O
solvent | water | 200 mL | O | H2O
product | 4-(4′-chloro-biphenyl-4-yl)-4-hydroxyimino-butyric acid | 6.82 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=NO | C16H14ClNO3
